US07842694B2
3-Hydroxy-5-[(1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide
10% Palladium on charcoal (550 mg) was added to a solution of 3-[(1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)-5-[(phenylmethyl)oxy]benzamide (5.5 g, 14.6 mmol) in ethanol (75 mL) and THF (50 mL) and the mixture stirred at RT under a hydrogen atmosphere for 24 hours. The catalyst was removed by filtration and the filtrates evaporated in vacuo to a residue which was crystallised from ethyl acetate to give the desired compound (3.42 g).

reactant | 3-[(1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)-5-[(phenylmethyl)oxy]benzamide | 14.6 mmol, 5.5 g | CC(C)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)OCC1=CC=CC=C1 | C22H23N3O3
catalyst | Palladium on charcoal | 550 mg | [Pd] | Pd
solvent | ethanol | 75 mL | C(C)O | C2H6O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-5-[(1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide | 3.42 g | OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)OC(C)C | C15H17N3O3
